US04546101
Sodium iodide (1.8 g) was added to a solution of benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate (5.0 g) and triphenylphosphine (3.2 g) in dimethyl formamide (15 ml) under ice-cooling and stirred for 3 hours at ambient temperature. The resulting solution was added dropwise to ethyl acetate (250 ml) under vigorous stirring. The precipitate, collected by filtration, was washed with ethyl acetate to give [4-benzhydryloxycarbonyl-7-amino-3-cephem-3-ylmethyl]triphenylphosphonium iodide hydrochloride (9.6 g).

reactant | Sodium iodide | 1.8 g | [I-].[Na+]
reactant | benzhydryl 7-amino-3-chloromethyl-3-cephem-4-carboxylate | 5.0 g | NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19ClN2O3S
reactant | triphenylphosphine | 3.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
product | [4-benzhydryloxycarbonyl-7-amino-3-cephem-3-ylmethyl]triphenylphosphonium iodide hydrochloride | 9.6 g | Cl.[I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2N)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C39H34N2O3PS.ClH.HI/c40-34-37(42)41-35(39(43)44-36(28-16-6-1-7-17-28)29-18-8-2-9-19-29)30(27-46-38(34)41)26-45(31-20-10-3-11-21-31,32-22-12-4-13-23-32)33-24-14-5-15-25-33;;/h1-25,34,36,38H,26-27,40H2;2*1H/q+1;;/p-1/t34?,38-;;/m1../s1
